US06335409B1
2.5 g (4.05 mmol) of a stock solution of poly (2-hydroxy-ethyl methacrylate) (21 wt. % in DMA) were diluted 7.5 ml of dimethylacetamide (DMA) under argon. 2.32 g (8.8 mmol) of triphenylphosphine and 1.44 g (8.1 mmol) of methyl 3-(4-hydroxyphenyl)-acrylate were dissolved in the reaction batch at room temperature while stirring. The solution was cooled to 0° C. 1.4 ml (8.8 mmol) of diethyl azodicarboxylate (DEAD) were added dropwise within 4 hours. The reaction batch was left at 0° C. for a further 15 minutes and then, after removal of the ice bath, stirred at room temperature for 15 hours. The reaction mixture was then added dropwise to about 900 ml of diethyl ether while stirring vigourously. The separated polymer was filtered off and dried at 60° C. in a water-jet vacuum. For purification, the residue was dissolved in 10 ml of dichloromethane and again precipitated in diethyl ether. This procedure was repeated until monomer was no longer detectable by thin-layer chromatography. Filtration and drying at 60° C. in a vacuum gave 0.93 g of poly [1-[2-[4-[(E)-2-methoxycarbonyl-vinyl]-phenoxy]-ethoxycarbonyl]-1-methyl-ethylene] as a white powder with a glass stage at Tg=88° C. and an absorption maximum of λmax. (in CH2Cl2)=296.6 nm (ε=20610 l/mol cm).

reactant | triphenylphosphine | 8.8 mmol, 2.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 3-(4-hydroxyphenyl)-acrylate | 8.1 mmol, 1.44 g | OC1=CC=C(C=C1)C=CC(=O)OC | C10H10O3
reactant | diethyl azodicarboxylate | 8.8 mmol, 1.4 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dimethylacetamide | 7.5 ml | CC(=O)N(C)C | C4H9NO
product | poly | 0.93 g | COC(=O)/C=C/C1=CC=C(OCCOC(=O)C(=C)C)C=C1 | C16H18O5
